US04929622
3-Cyclopropylmethyl-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine
To a stirred solution of 3.22 g of 1,2,3,4,5,6-hexahydro-6,12-dimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine and 58 ml of dimethylformamide was added 4.70 ml of diisopropylethyl amine and then 1.56 ml of cyclopropylmethyl bromide, under nitrogen. The reaction mixture was warmed in an oil bath at 70°-80° C. for 1.5 hr and stirred at room temperature overnight. The reaction mixture was poured into water and ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate and ether. The combined organic layers were washed with brine, dried over anhydrous potassium carbonate, filtered, and the filtrate was concentrated. The residue was purified by flash column chromatography (silica gel, 2% triethylamine/0-10% methanol/ethyl acetate) gave 2.48 g (63%) of product. Sublimation (173°-175° C., ~0.3 mm) gave the analytical sample, mp 187°-190° C. (dec).

reactant | 1,2,3,4,5,6-hexahydro-6,12-dimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 3.22 g | CC12C=NCC=CC3=C1CCC1=C3CC(N1)C2C | C16H20N2
reactant | dimethylformamide | 58 ml | CN(C=O)C | C3H7NO
reactant | diisopropylethyl amine | 4.70 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylmethyl bromide | 1.56 ml | C1(CC1)CBr | C4H7Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-Cyclopropylmethyl-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 2.48 g, 63% | C1(CC1)CN1C2CC3=C1CCC1=C3C=CCN=CC1(C2C)C | C20H26N2
